US07026505B2
4-Methyl-2-(1H-tetrazol-5-ylmethyl)-pentylamine
The cyanoamide (6.5 g, 0.0209 mol) and triphenylphosphine (11.06 g, 0.042 mol) were dissolved in 300 mL of dry THF. The solution was treated with DEAD (6.7 mL, 0.0425 mol) and TMSN3 (5.75 mL, 0.043 mol). The reaction was stirred for 24 hours, and the reaction mixture was cooled to 0° C. and treated with 900 mL of an aqueous solution containing 46.9 g of (NH4)2Ce(IV)NO3. The reaction mixture was concentrated to remove THF and extracted with three portions of CH2Cl2. The combined organic layers were dried with brine and Na2SO4, and the solvents were removed under reduced pressure to give a clear oil which was passed through a plug of silica gel to give the product admixed with triphenylphosphine oxide. This crude mixture was dissolved in 200 mL THF and 50 mL of 2N NaOH. The mixture was heated to reflux for 2 hours then stirred at room temperature overnight. The THF was removed under reduced pressure and the resulting residue diluted with water. After extraction with ether, the aqueous phase was acidified to pH 7 and extracted with 21 mL of 4N HCl. The aqueous phase was then saturated with solid KH2PO4. The aqueous mixture was extracted with CH2Cl2. The organic extracts were washed with brine and dried over Na2SO4. Evaporation if the organic solvents under reduced pressure resulted in isolation of 3.4 g of an amber oil.

reactant | cyanoamide | 0.0209 mol, 6.5 g | C(#N)[NH-]
reactant | triphenylphosphine | 0.042 mol, 11.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.0425 mol, 6.7 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | TMSN3 | 0.043 mol, 5.75 mL | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | triphenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | NaOH | 2N, 50 mL | [OH-].[Na+]
product | 4-Methyl-2-(1H-tetrazol-5-ylmethyl)-pentylamine | 3.4 g | CC(CC(CN)CC1=NN=NN1)C | C8H17N5
